US04749379
EXAMPLE 3 Preparation of 2-methylamino-4,5-methylenedioxy-1-nitrobenzene
0.05 mol (10.6 g) of 4,5-methylenedioxy-1,2-dinitrobenzene is added to 40 ml of a 33% strength solution of methylamine in absolute ethanol to which 20 ml of 96° strength ethanol have been added. The reaction edium is heated under reflux for 30 minutes. After dilution with 150 ml of ice-cold water, the expected product precipitates. After being drained and washed with water, it is recrystallized from a mixture of ethanol and acetone. It melts at 170° C. (literature 171° C.).

reactant | 4,5-methylenedioxy-1,2-dinitrobenzene | 0.05 mol, 10.6 g | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 2-methylamino-4,5-methylenedioxy-1-nitrobenzene | CNC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C8H8N2O4
